US04024276
110 g (1 mole) of catechol was added to a solution of 23 g (1 mole) of metallic sodium in 1 liter of absolute ethanol and the mixture was stirred under nitrogen for one hour. Then, 166 g (1.1 mole) of 1-bromopentane were added dropwise to the mixture over 15 minutes and the mixture was refluxed with stirring for 3 hours, was cooled and poured into 3 liters of water. The mixture was extracted with 1000 ml of ether and the ether extracts were washed with 20% sodium carbonate solution and then water, dried over magnesium sulfate and evaporated to dryness under reduced pressure to obtain 157 g of 2-(n-pentyloxy)-phenol as a yellow oil. IR spectrum showed OH at 3540 cm - 1.

reactant | catechol | 1 mole, 110 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | sodium | 1 mole, 23 g | [Na] | Na
reactant | 1-bromopentane | 1.1 mole, 166 g | BrCCCCC | C5H11Br
reactant | water | 3 liters | O | H2O
solvent | ethanol | 1 liter | C(C)O | C2H6O
product | 2-(n-pentyloxy)-phenol | 157 g | C(CCCC)OC1=C(C=CC=C1)O | C11H16O2
